US08557853B2
1-Bromo-2-chloro-3-methyl-benzene:
Concentrated HCl was added to a solution of 4-bromo-3-chloro-2-methyl-phenylamine (4.98 g, 22.60 mmol) in EtOH. NaNO2 (3.00 g, 43.50 mmol) was added and the resulting mixture was heated to 70° C. for 2 hours. Ethanol was distilled off and the residue was purified by column chromatography using hexanes as the eluant to afford the title compound. Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ 2.43 (s, 3H), 7.01 (t, J=7.91 Hz, 1H), 7.18 (d, J=7.62 Hz, 1H), 7.47 (d, J=7.91 Hz, 1H).

reactant | HCl | Cl | ClH
reactant | 4-bromo-3-chloro-2-methyl-phenylamine | 22.60 mmol, 4.98 g | BrC1=C(C(=C(C=C1)N)C)Cl | C7H7BrClN
reactant | NaNO2 | 43.50 mmol, 3.00 g | N(=O)[O-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 1-Bromo-2-chloro-3-methyl-benzene | BrC1=C(C(=CC=C1)C)Cl | C7H6BrCl
